US08232278B2
Synthesis of 4-morpholino-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine
A mixture of 4-chloro-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine (56 mg, 0.2 mmol) and morpholine (200 μl) in dioxane (5 ml) was refluxed for 1 hour. After concentration under reduced pressure, the residue was purified by silica gel flash chromatography, the mobile phase being a mixture of methanol and dichloromethane, in a volume ratio of 1:60, yielding the title compound (60 mg, yield 97%) as a white solid which was characterised by its mass spectrum as follows: MS (m/z): 311 ([M+H]+, 100).

reactant | 4-chloro-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | 0.2 mmol, 56 mg | ClC=1C2=C(N=CN1)C=CC(=N2)C2=CC=C(C=C2)F | C13H7ClFN3
reactant | morpholine | 200 μl | N1CCOCC1 | C4H9NO
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-morpholino-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | 60 mg, yield 97% | O1CCN(CC1)C=1C2=C(N=CN1)C=CC(=N2)C2=CC=C(C=C2)F | C17H15FN4O
